US03953604
A solution of 2,6-dihydroxyacetophenone (15.2g.), phenylglycidyl ether (15.0 g) and benzyltrimethylammonium hydroxide (5 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 48 hours. The solvent was removed under reduced pressure and the resulting solid was washed with ether. Recrystallization from aqueous ethanol gave 1-(2-acetyl-3-hydroxyphenoxy(-2-hydroxy-3-phenoxypropane, 19.0 g, as pale lemon needles, m.p. 100.5°-101.5° C.

reactant | 2,6-dihydroxyacetophenone | 15.2g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | phenylglycidyl ether | 15.0 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 2-hydroxy-3-phenoxypropane | OC(C)COC1=CC=CC=C1 | C9H12O2
